US09376442B2
5-Cyclopropylmethoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzo[1,3]dioxole
A stirred solution of 5-cyclopropylmethoxy-benzo[1,3]dioxole from example B.b1 (38.44 g; 200.0 mmol) in dry THF (500 mL) is cooled to −40° C. before n-butyl lithium (138.0 mL; 1.6M solution in hexane; 220 mmol) is slowly added via syringe. After complete addition, stirring is continued at −40° C. for two hours. At −78° C. neat 2-iso-propoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (40.95 g; 220.0 mmol) is added via syringe and stirring is continued at −78° C. for two hours.

reactant | 5-cyclopropylmethoxy-benzo[1,3]dioxole | C1(CC1)COC1=CC2=C(OCO2)C=C1 | C11H12O3
reactant | n-butyl lithium | 220 mmol, 1.6M, 138.0 mL | C(CCC)[Li]
reactant | 2-iso-propoxy-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 220.0 mmol, 40.95 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 5-Cyclopropylmethoxy-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzo[1,3]dioxole | C1(CC1)COC1=C(C2=C(OCO2)C=C1)B1OC(C(O1)(C)C)(C)C | C17H23BO5
